US08420640B2
A solution of 4-bromo-2-fluoro-1-nitrobenzene (1.0 g, 4.5 mmol) and 2.0 M dimethylamine ethanol solution (6.9 ml, 13.6 mmol) in 20 ml NMP was stirred at room temperature for 16 hours. The solution was added 200 ml water. The solids (1.03 g, 90%) were filtered dried under high vacuum. A solution of 5-bromo-N,N-dimethyl-2-nitrobenzenamine (0.2 g, 0.8 mmol), benzoyl piperazine (0.19 g, 1.0 mml), Tris(dibenzylideneacetone)dipalladium (9 mg), BINAP (38 mg) and cesium carbonate (0.24 g, 1.2 mmol) in 20 ml NMP was stirred at 100° C. under argon atmosphere for 16 hours. The reaction was cooled to room temperature before filtration. (4-(3-(dimethylamino)-4-nitrophenyl)piperazin-1-yl)(phenyl)methanone (0.06 g, 20%) was obtained after flash column chromatograph (50% ethyl acetate in hexanes). 1H NMR (500 MHz, CDCl3) δ (ppm) 2.93 (s, 6H), 3.40-3.57 (m, 8H), 6.26 (d, J=2.6 Hz, 1H), 6.35 (dd, J=2.6, 9.6 Hz, 1H), 7.48 (m, 5H), 7.98 (d, J=9.6 Hz, 1H).

reactant | 4-bromo-2-fluoro-1-nitrobenzene | 4.5 mmol, 1.0 g | BrC1=CC(=C(C=C1)[N+](=O)[O-])F | C6H3BrFNO2
reactant | dimethylamine ethanol | 13.6 mmol, 2.0 M, 6.9 ml | C(C)O.CNC
reactant | 5-bromo-N,N-dimethyl-2-nitrobenzenamine | 0.8 mmol, 0.2 g | BrC=1C=CC(=C(C1)N(C)C)[N+](=O)[O-] | C8H9BrN2O2
reactant | benzoyl piperazine | 0.19 g | C(C1=CC=CC=C1)(=O)N1CCNCC1 | C11H14N2O
reactant | BINAP | 38 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | cesium carbonate | 1.2 mmol, 0.24 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | NMP | 20 ml | CN1CCCC1=O | C5H9NO
solvent | NMP | 20 ml | CN1CCCC1=O | C5H9NO
catalyst | Tris(dibenzylideneacetone)dipalladium | 9 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 200 ml | O | H2O
product | (4-(3-(dimethylamino)-4-nitrophenyl)piperazin-1-yl)(phenyl)methanone | 0.06 g, 20% | CN(C=1C=C(C=CC1[N+](=O)[O-])N1CCN(CC1)C(=O)C1=CC=CC=C1)C | C19H22N4O3
